Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Demerol
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ y.o. w/ pmh significant for asthma and AIDS, 
presenting with two days of cough, shortness of breath, and 
sinus congestion. The patient reported chest discomfort last 
evening, which was exacerbated by coughing and inspiration, and 
alleviated by lying on his side. It is constant in duration, and 
is not associated with radiation to his arm or jaw. It is not 
associated with nausea or diaphoresis. He also reports headache, 
sinus congestion, back pain, and generalized muscle pains. He 
denies neck stiffness. The patient presented to the ED after 
symptoms did not resolve after two days.  
he denies diahrrea, and reports he has not had a BM in three 
days. he reports having a sick contact with similar illness to 
what he is currently experiencing.  
.  
In the ED:vitals were 98.5, 113, 146/89 17 100%RA, ambulatory O2 
98%  
CXR was normal. The patient was given affrin for nasal 
congestion, combivent neb. Tylenol, and ativan 1mg IV X1 for 
anxiety. He was admitted after spiking a fever to 102.0 w  

 
Past Medical History:
1. HIV - dx ___ years ago; contracted via homosexual contact.  
CD4 306 in ___.  The patient reports a CD4=259 2 weeks ago 
with a VL >2 million.  Re-started HAART Therapy on ___ (4 
days PTA).   The patient reports his doctor was trying to get 
him to take HAART since ___ but he has been resistent and 
only taking it sporadically (which he acknowledges is bad)
2. Gluteal abscess in ___
3. Lower extremity swelling in ___ - hospitalization
4. Depression/SI

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: T:102.4 P:113 BP:146/89 R:17 SaO2:100%RA  
General: Awake, alert, NAD.  
HEENT: NC/AT, PERRL, EOMI without nystagmus, no scleral icterus 
noted, MMM, no lesions noted in OP  
Neck: supple, no JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally  
Cardiac: tachycardic, nl. S1S2, no M/R/G noted  
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.  
Extremities: No C/C/E bilaterally, 2+ radial, DP and ___ pulses 
b/l.  
Lymphatics: No cervical, supraclavicular, axillary or inguinal 
lymphadenopathy noted.  
Skin: no rashes or lesions noted.  
Neurologic:  
-mental status: Alert, oriented x 3. Able to relate history 
without difficulty.  

 
Pertinent Results:
___ 12:30PM BLOOD WBC-8.0# RBC-5.57 Hgb-16.3 Hct-45.7 
MCV-82 MCH-29.2 MCHC-35.5* RDW-13.4 Plt ___
___ 07:00AM BLOOD WBC-4.6 RBC-5.25 Hgb-15.4 Hct-42.7 
MCV-81* MCH-29.4 MCHC-36.1* RDW-13.2 Plt ___
___ 12:30PM BLOOD Neuts-79.8* Lymphs-14.4* Monos-5.2 
Eos-0.2 Baso-0.4
___ 06:35AM BLOOD  WBC-5.8 Lymph-23 Abs ___ CD3%-75 
Abs CD3-1001 CD4%-10 Abs CD4-130* CD8%-59 Abs CD8-781* 
CD4/CD8-0.2*
___ 12:30PM BLOOD Glucose-127* UreaN-10 Creat-0.9 Na-136 
K-4.5 Cl-101 HCO3-25 AnGap-15
___ 07:00AM BLOOD Glucose-116* UreaN-6 Creat-0.8 Na-139 
K-3.9 Cl-103 HCO3-25 AnGap-15
___ 05:10PM BLOOD ALT-25 AST-32 AlkPhos-53 TotBili-0.2
___ 12:30PM BLOOD LD(LDH)-335*
___ 06:35AM BLOOD Calcium-8.5 Phos-2.6* Mg-2.0
___ 06:30AM BLOOD Triglyc-95 HDL-37 CHOL/HD-2.5 LDLcalc-37
___ 05:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-5.7 
Bnzodzp-POS Barbitr-NEG Tricycl-NEG
___ 12:30PM BLOOD GreenHd-HOLD
___ 05:46PM URINE Color-Yellow Appear-Clear Sp ___
___ 05:46PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 05:42PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
___ 08:53PM URINE Color-Straw Appear-Clear Sp ___
___ 08:53PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 12:30PM URINE Color-Straw Appear-Clear Sp ___
___ 12:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
.
___ 2:30 pm Influenza A/B by ___
      Source: Nasopharyngeal aspirate. 

                            **FINAL REPORT ___

   DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Positive for Influenza A viral antigen. 
      REPORTED BY PHONE TO ___ ___ 1130. 

   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      NEGATIVE FOR INFLUENZA B VIRAL ANTIGEN.
.
CHEST (PA & LAT)  ___ 12:48 ___

CHEST (PA & LAT)

Reason: ? etiology of sob cough 

UNDERLYING MEDICAL CONDITION:
___ year old man with hiv, asthma, c/o cough sob. 
REASON FOR THIS EXAMINATION:
? etiology of sob cough 
PA AND LATERAL CHEST, ___ AT 12:59 P.M.

HISTORY: HIV and asthma with cough and shortness of breath.

COMPARISON: Multiple priors, the most recent dated ___.

FINDINGS: The lungs are well expanded and clear. The mediastinum 
is unremarkable. The cardiac silhouette is within normal limits 
for size. No effusion or pneumothorax is evident. The visualized 
osseous structures are unremarkable.

IMPRESSION: No radiographic evidence for pneumonia or other 
acute pulmonary pathology.
.
___ 2:25 pm TISSUE
      Source: erosion, hard palate r/o HSV 1, HSV2, VZV. 

   VIRAL CULTURE (Preliminary):    No Virus isolated so far.
.
___ 1:00 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      THIS IS A CORRECTED REPORT 12:10PM ___. 
      REPORTED BY PHONE TO ___ ___ 12:10 ___. 
      PROPIONIBACTERIUM ACNES.    ISOLATED FROM ONE SET ONLY. 
         PREVIOUSLY REPORTED AS CORYNEBACTERIUM SPECIES 
___. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE ROD(S). 
      REPORTED BY PHONE TO ___. ___ ___ 12:35PM ___.
.
___ 7:40 pm BLOOD CULTURE      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
Patient is ___ y.o. man w/ pmh AIDS, presenting with two days of 
cough, shortness of breath, muscle aches, and fever.  
.  
#)Cough, fever: History most suggestive of viral upper 
respiratory infection. Patient with sinus pain, pressure, 
congestion, along with cough, shortness of breath, muscle aches 
and pains. Found to be Influenza A positive He was treated 
symptomatically with tylenol, ibuprofen, nasal saline spray.  
.  
#)Hypertension, Tachycardia: In setting of anxiety. Patient with 
history of multidrug abuse. Was initially placed on CIWA scale, 
along with standing ativan. His CIWA scale as discontinued after 
24 hours. tox screen was negative. His systolic blood pressures 
remained in the 140-160's range.  he was subsequently begun on 
HCTZ.  
.  
#)Oral lesion: Patient reports oral lesion on hard palate behind 
front teeth. lesions are painful. Dermatology evaluated the 
patient and believes they are HSV.  he was therefore begun on 
acyclovir, and switched to valtrex at discharge. 
.  
#)AIDS: His CD4 count was found to be 130. The patient has an 
allergy to bactrim. He was therefore begun on atovaquone for PCP 
___. 
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for fever, pain.
Disp:*30 Tablet(s)* Refills:*0*
2. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*
3. Valacyclovir 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) for 9 days.
Disp:*20 Tablet(s)* Refills:*0*
4. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
QID (4 times a day) as needed.
Disp:*qs * Refills:*0*
5. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
7. Lidocaine HCl 2 % Solution Sig: One (1) ML Mucous membrane 
QID (4 times a day) as needed for mouth sores for 4 days.
Disp:*qs ML(s)* Refills:*0*
8. Menthol-Cetylpyridinium 3 mg Lozenge Sig: One (1) Lozenge 
Mucous membrane PRN (as needed).
Disp:*30 Lozenge(s)* Refills:*0*
9. Atovaquone 750 mg/5 mL Suspension Sig: One (1)  PO DAILY 
(Daily).
Disp:*30 * Refills:*0*
10. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours).
Disp:*qs for 1 month * Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Influenza A, oral herpes simplex
.
Secondary
HIV/AIDS
Hypertension

 
Discharge Condition:
Afebrile, stable vital signs, tolerating POs, ambulating without 
assistance.

 
Discharge Instructions:
You were admitted to the hospital with fevers and cough. You 
were found to have influenza.  Your absolute CD4 count was below 
200 and you were started on Atovaquone.  This will need to be 
followed up by Dr. ___.  It is very important that you 
continue to follow with him.  You were also found to have 
lesions in your mouth which are thought to be due to Herpes 
Simplex Virus and will be treated with 10 days of Acyclovir. 
Your blood pressure was found to be elevated during this 
admission and you were given a dose of hydrochlorothiazide, but 
it was decided that this could be followed up on by your PCP.
.
1. Please take all medication as prescribed.
2. Please make all medical appointments.
3. Please return to the Emergency Room if you have any
 
Followup Instructions:
___